US04786646
As in Example 141, (R)-2,2-diphenylcyclopropanepropanoic acid 4-nitrophenyl ester (4.8 g) was treated with 3-pyridinebutanamine (1.88 g) in tetrahydrofuran (110 mL) at 25° C. for 2 hours. The crude product, isolated in the normal manner, was purified by HPLC (ethyl acetate-hexane; 9:1) and lyophilized from benzene to give 4.3 g of (R)-2,2-diphenyl-N-[4-(3-pyridinyl)butyl]cyclopropanepropanamide as an oil, [α]D25 +86.4° (c, 1.0, MeOH).

reactant | (R)-2,2-diphenylcyclopropanepropanoic acid 4-nitrophenyl ester | 4.8 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC[C@H]1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H21NO4
reactant | 3-pyridinebutanamine | 1.88 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
product | (R)-2,2-diphenyl-N-[4-(3-pyridinyl)butyl]cyclopropanepropanamide | 4.3 g | C1(=CC=CC=C1)C1([C@@H](C1)CCC(=O)NCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C27H30N2O
